Pro46B
*SPICE Netlist generated by Advanced Sim server on 03/11/2005 14:27:26

*Schematic Netlist:
C1 INPUT N1 {C_VALUE}
C2 N2 N1 {C_VALUE}
E1 OUTPUT 0 N2 NetE1_2 {AMP_GAIN}
R1 0 N2 {R1_VALUE}
R2 OUTPUT N1 {R2_VALUE}
R3 0 NetE1_2 {R3_VALUE}
R4 OUTPUT NetE1_2 {R4_VALUE}
V1 INPUT 0 DC 0 PULSE(0 -1 1ms 10u 10u 10ms 20ms) AC 1 0

.SAVE 0 INPUT N1 N2 NetE1_2 OUTPUT V1#branch @V1[z] @C1[i] @C2[i] @R1[i] @R2[i]
.SAVE @R3[i] @R4[i] @C1[p] @C2[p] @E1[p] @R1[p] @R2[p] @R3[p] @R4[p] @V1[p]

*PLOT AC -1 1 A=INPUT A=OUTPUT

*Selected Circuit Analyses:
.AC DEC 10 1 1E6
.CONTROL
SWEEP DAMPING_COEFF 1 10 2
.ENDC

*Global Parameters:
.PARAM CUTOFF_FREQ=1k
.PARAM R1_VALUE={4*R2_VALUE*DAMPING_COEFF^2}
.PARAM AMP_GAIN=100MEG
.PARAM R2_VALUE={1/(4 * PI * CUTOFF_FREQ * C_VALUE * DAMPING_COEFF)}
.PARAM PI=3.14159265
.PARAM R3_VALUE=100k
.PARAM C_VALUE=1n
.PARAM R4_VALUE={R3_VALUE}
.PARAM DAMPING_COEFF=1

.END
