Pro1D7
*SPICE Netlist generated by Advanced Sim server on 03/11/2005 14:02:52

*Schematic Netlist:
L1 VIN VOUT 100mH pspiceIND
R1 0 VOUT 1K
V1 VIN 0 DC 0 SIN(0 1 1K 0 0 0) AC 1 0

.SAVE 0 VIN VOUT V1#branch @V1[z] @L1[i] @R1[i] @L1[p] @R1[p] @V1[p]

*PLOT TRAN -1 1 A=VIN

.OPTIONS TNOM=20
*Selected Circuit Analyses:
.TRAN 2E-5 0.005 0 2E-5
.CONTROL
SWEEP OPTION[TEMP] 50 250 50
.ENDC

*Models and Subcircuit:
.MODEL pspiceIND IND(L=1 IL1=100 IL2=100 TC1=100 TC2=100)

.END
