Pro212
*SPICE Netlist generated by Advanced Sim server on 03/11/2005 14:08:54

*Schematic Netlist:
R1 0 VRES pspiceRES 1K
V1 VRES 0 DC 0 SIN(0 1 1K 0 0 0) AC 1 0

.SAVE 0 VRES V1#branch @V1[z] @R1[i] @R1[p] @V1[p]

*PLOT TRAN -1 1 A=VRES

*Selected Circuit Analyses:
.TRAN 2E-5 0.005 0 2E-5
.CONTROL
SWEEP OPTION[TEMP] 50 200 50
.ENDC

*Models and Subcircuit:
.model pspiceRES RES ( R = 1.0 TC1 = 0.75 TC2 = 0.5 TCE = 0.9 )

.END
